Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-5.682369489149999
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.05562241099
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])#[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4],2.89336682212
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],5.1152455633
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:5],1.66666859836
[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14].[H:8]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-4.29413873744
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],3.68879196756
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13].[H:1][O:2],5.40803083084
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]1[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11],0.55756449242
[C:1]=[C:2]([H:3])[H:4].[C:5]#[C:6][C:7](=[O:8])[H:9]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7](=[O:8])[H:9],-2.66984546775
[C:5]#[C:6][O:7][H:8].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8],-2.77127503587
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-1.57419343183
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12],3.69080666508
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])=[C:14]([H:15])[H:16].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:17],1.87652011949
[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.7489751879269999
[H:1][C:2]=[C:3]1[C:4]([O:5][H:6])[C:7][C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][C:8]([C:7]#[C:4][O:5][H:6])([H:9])[H:10],-2.2403270446400003
[H:1][C:8]#[C:7][C:4]([C:3]#[C:2][C:9]([H:10])([H:11])[H:12])([H:5])[H:6]>>[H:1][C:2]1[C:3][C:4]([H:5])([H:6])/[C:7]1=[C:8]/[C:9]([H:10])([H:11])[H:12],2.6519232129400003
[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:2]([H:3])=[C:4]([C:5]#[C:6][H:7])[O:8][H:9].[O:1],6.5915714686800015
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-1.1842044
[C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8].[H:1]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-5.59645377799
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.06165024176
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3][O:9][H:10].[O:4]([H:5])[C:6]([H:7])[H:8],4.00264802571
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]#[C:10][H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.98957990979
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.20045325334
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.52098011579
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.9764609783800005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],0.487745698129
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.9963781316
